US06916807B2
Preparation B: 4-(2-Fluoro-phenyl)-oxazole
1-(2-Fluoro-phenyl)-ethanone (2.24 g, 16.23 mmol) and formamide (3.9 mL 97.4 mmol) were added to a flame-dried flask, stirred, and heated to 60° C. Bromine (832 μL, 16.23 mmol) was added dropwise. Upon completion of the bromine addition, the reaction was stirred for 30 minutes, and then the temperature was increased to 125° C. After 3.5 hour further stirring, the reaction mixture was cooled and diluted with 100 mL water. 1N sodium hydroxide was added to increase the pH to about 10. The aqueous layer was extracted twice with diethylether, the combined ether layers were washed with water, dried with magnesium sulfate and concentrated under vacuum. The crude material obtained was chromatographed on silica gel (ISCO MPLC purification, 40 minutes, 0-50% ethyl acetate gradient, Biotage flash 40 m column) to provide 580 mg (22%) of the title compound. 1H NMR (400 MHz, CD3OD) δ 8.26 (s, 1H), 8.22 (d, 1H, J=9.9 Hz), 8.0 (m, 1H), 7.3 (m, 3H).

reactant | 1-(2-Fluoro-phenyl)-ethanone | 16.23 mmol, 2.24 g | FC1=C(C=CC=C1)C(C)=O | C8H7FO
reactant | formamide | 97.4 mmol, 3.9 mL | C(=O)N | CH3NO
reactant | Bromine | 16.23 mmol, 832 μL | BrBr | Br2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 4-(2-Fluoro-phenyl)-oxazole | 580 mg, 22% | FC1=C(C=CC=C1)C=1N=COC1 | C9H6FNO
